US04207320
10-(1-Pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
A mixture of 4.14 g. of 10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide, 3.6 g. of pyrrolidine and 100 ml. of methanol is stirred and heated in a pressure vessel at 190° C. for 24 hours, then cooled and evaporated at reduced pressure. The resulting precipitate of 10-(1-pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected and washed with cold methanol; m.p. 350°-355° C., after crystallization from dimethylformamide.

reactant | 10-fluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].FC1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC=CC2C=C1)C3
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | 10-(1-Pyrrolidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].N1(CCCC1)C1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC=CC2C=C1)C3 | InChI=1S/C23H20N3.HI/c1-2-6-21-17(5-1)8-12-23-25(21)16-20-9-7-18-15-19(24-13-3-4-14-24)10-11-22(18)26(20)23;/h1-2,5-12,15-16H,3-4,13-14H2;1H/q+1;/p-1
